US08669266B2
(v) 4-{(S)-2-[(4-Benzyloxycarbonylmethoxy-7-methyl-naphthalene-2-carbonyl)-amino]-4-tert-butoxycarbonyl-butyryl}-piperazine-1-carboxylic acid butyl ester
To a solution of 1.0 g 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-hydroxy-7-methyl-naphthalene-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid butyl ester in 12 ml of DMF, 645 mg of cesium carbonate and 447 mg of Bromo-acetic acid benzyl ester were added and the reaction mixture was stirred for 2 h at RT. Then, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was dried over MgSO4 and the solvents were removed under reduced pressure. The isolated crude product was pure enough for the next reaction step. Yield: 710 mg.

reactant | 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-hydroxy-7-methyl-naphthalene-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid butyl ester | 1.0 g | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=CC2=CC(=CC=C2C(=C1)O)C)=O | C30H41N3O7
reactant | cesium carbonate | 645 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Bromo-acetic acid benzyl ester | 447 mg | C(C1=CC=CC=C1)OC(CBr)=O | C9H9BrO2
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-{(S)-2-[(4-Benzyloxycarbonylmethoxy-7-methyl-naphthalene-2-carbonyl)-amino]-4-tert-butoxycarbonyl-butyryl}-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=CC2=CC(=CC=C2C(=C1)OCC(=O)OCC1=CC=CC=C1)C)=O | C39H49N3O9
